* source SMPS
V_V3         N34022 N34026 DC 0 AC 0
+SIN 0 375 50 0 0 0
R_R13         N35539 N33998  10M TC=0,0 
L_L1         N33812 N33892  470u  
C_C3         0 N33892  470n  TC=0,0 
R_R11         N34038 0  2.7M TC=0,0 
C_C4         0 N33812  470n  TC=0,0 
X_D9         N33812 N34026 0 N34022 awbvbo13_04n01 PARAMS:              
Q_Q1         N34038 N33998 N33812 STN9360 
X_D10         N34022 N35539 power_diode_p PARAMS: I_REV_LEAK=1e-5
+  CT_ZERO_VOLTS=300p V_BR=1000 VJ_KNEE=0.9 VJ_SPEC=1.6 IF_SPEC=6
R_R14         N33998 0  1M TC=0,0 
