* source SMPS
X_U1A         N02665 N02628 N02669 0 N02602 LM324/NS
R_R1         N02628 N02602  4k TC=0,0 
R_R2         N02628 0  2k TC=0,0 
R_R3         N02665 N02931  10k TC=0,0 
V_V2         N02669 0 15
V_V3         N02931 0 DC 0 AC 0
+SIN 0 4 50 0 0 0
X_D1         0 N02665 power_diode_p PARAMS: I_REV_LEAK=1e-5 CT_ZERO_VOLTS=300p
+  V_BR=600 VJ_KNEE=0.9 VJ_SPEC=1.6 IF_SPEC=6
