* source SMPS
X_D4         N13710 N13691 power_diode_p PARAMS: I_REV_LEAK=0.004m
+  CT_ZERO_VOLTS=300p V_BR=100 VJ_KNEE=0.4 VJ_SPEC=0.6 IF_SPEC=10
V_V2         N16440 0   PWL    
+ 0 0 5m 25  
R_R4         N13413 N11065  5k TC=0,0 
X_D1         N13727 N105251 power_diode_p PARAMS: I_REV_LEAK=1e-5
+  CT_ZERO_VOLTS=300p V_BR=600 VJ_KNEE=0.9 VJ_SPEC=1.6 IF_SPEC=6
R_R8         N13710 N13691  100 TC=0,0 
C_C1         N11041 0  300u  TC=0,0 
R_R6         0 N14358  1G TC=0,0 
D_D7         N15388 N15448 Dbreak 
R_R3         0 N11065  0.821 TC=0,0 
X_D6         N14522 N15448 Zener PARAMS: VZT=150 TCBV=150 
R_R5         N14973 N105251  22 TC=0,0 
X_U4         0 N11041 Sw_tClose PARAMS: tClose=15m ttran=1u Rclosed=207.36
+  Ropen=1Meg
X_D8          0 0 N10823 FERD20S100SB-TR
C_C2         0 N14973  8.2u  TC=0,0 
X_D2         N16440 N14973 power_diode_p PARAMS: I_REV_LEAK=1e-5
+  CT_ZERO_VOLTS=300p V_BR=600 VJ_KNEE=0.9 VJ_SPEC=1.6 IF_SPEC=6
X_U5          N13413 N14522 N13830 N14358 N14973 N13710 0 UCC28730_netlist
X_U6          N10823 N11041 0 0 0 UCC24650
X_U7          N15388 N13691 N11065 IPN70R1K2P7S_L1 PARAMS: dRdson=0 dVth=0
X_T1          N14522 N13497 N13497 N15388 0 N13727 N10823 N11041 N10823 N11041
+  N10823 N11041 FB_EFD25_750311771
R_R12         N13727 N13830  71.5k TC=0,0 
R_R1         N13830 0  27.4k TC=0,0 
X_D9         N27965 N28045 0 N28041 awbvbo13_04n01 PARAMS:              
C_C3         0 N14522  0.22u  TC=0,0 
V_V3         N28041 N28045 DC 0 AC 0
+SIN 0 327 50 0 0 0
R_R13         0 N14522  6Meg TC=0,0 
C_C4         0 N27965  0.15u  TC=0,0 
L_L1         N27965 N14522  470u  
