* D:\Users\mbt0c\OneDrive\Dokumente\Southampton\Part 2\D5\PSU\fetbridge.asc
XU1 0 N013 0 N005 N008 N007 N010 N009 LT1249
V1 N001 N006 SINE(0 130 50)
D1 0 N001 D
D2 N001 N002 D
D3 0 N006 D
D4 N006 N002 D
L1 N002 N003 50µ
M1 N003 N009 0 0 STP8NM60
R1 N002 N005 1Meg
C1 N005 0 4.7n
D5 N003 N004 D
R2 0 0 0.2
C2 0 N013 100p
C3 0 N011 1n
R3 N011 N013 10k
V2 N010 0 17
R4 N004 N007 750K
R5 N007 0 20k
C4 N004 0 180µ
C5 N007 N008 0.047µ
C6 N007 N012 0.47µ
R6 N012 N008 330k
R7 N004 0 1k
.model D D
.lib D:\Users\mbt0c\OneDrive\Dokumente\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib D:\Users\mbt0c\OneDrive\Dokumente\LTspiceXVII\lib\cmp\standard.mos
.tran 0 200m 100m
.model 1N4001 D
.lib LT1249.sub
.backanno
.end
