* PSpice Model Editor - Version 16.2.0
*$
.SUBCKT FWDR P1 P2 S1 S2 RS1 RS2 
*.SUBCKT FWDR P1 P2 RS1 RS2 S1 S2
* MODEL Type: Forward with reset winding Transformer
RP1 P1 PI1 16
LP1 PI1 PI2 3900u
LP2 PI2 P2 70u
LS1 S1 SI1 48.579u
RS1 SI1 S2 0.24
LRS1 RS2 RSI 48.579u
RRSI RS1 RSI 3.8
K1 LP1 LS1 LRS1 1
RG1 S2 0 1G
RG2 RS2 0 1G
.ends FWDR
*$
.SUBCKT FWDR2 P1 P2 S1 S2 RS1 RS2 
*.SUBCKT FWDR P1 P2 RS1 RS2 S1 S2
* MODEL Type: Forward with reset winding Transformer
RP1 P1 PI1 450m
LP1 PI1 PI2 500u
LP2 PI2 P2 5u
LS1 S1 SI1 14u
RS1 SI1 S2 15m
LRS1 RS2 RSI 14u
RRSI RS1 RSI 180m 
K1 LP1 LS1 LRS1 1
RG1 S2 0 1G
RG2 RS2 0 1G
.ends FWDR2
*$
